* Auto-generated simulation netlist for case: ccp_gec_level1_fixed_match
.param C1=8.47910554857e-12
.param C2=4.6134495724e-11
.param Csh=9.0901792036e-11
.param L1=4.67330513685e-08
.param Vsrc_amp=355.391709898
.param ne=1.07542649552e+15
.param nu_m=68459831.9576

* Sources
Vsrc src 0 SIN(0 355.391709898 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: plasma_state_rlc
.subckt load_model p n
Rbulk p nb 7.04692270392
Lbulk nb ns 1.0293514463e-07
Csh ns n 9.0901792036e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
